US08791119B2
To a solution of 44.3 g (263 mmol) of 4-phenyl-1H-pyrrole-3-carbonitrile (CAS 40167-37-1) in 600 ml of tetrahydrofuran are added portionwise 35.8 g (268 mmol) of N-chlorosuccinimide (CAS 128-09-6) and the mixture is then stirred for 48 hours at reflux. After cooling, the reaction medium is concentrated under reduced pressure and the residue is then taken up in water. The reaction product is extracted with ethyl acetate, the organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure to give a brown solid, which is triturated in diisopropyl ether and then isolated by filtration. The filtrate is concentrated under reduced pressure and the solid residue obtained is triturated in diisopropyl ether and then isolated by filtration. The two batches of solid are combined to give 51.7 g of 5-chloro-4-phenyl-1H-pyrrole-3-carbonitrile in the form of a beige-coloured powder after drying.

reactant | 4-phenyl-1H-pyrrole-3-carbonitrile | 263 mmol, 44.3 g | C1(=CC=CC=C1)C=1C(=CNC1)C#N | C11H8N2
reactant | N-chlorosuccinimide | 268 mmol, 35.8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 5-chloro-4-phenyl-1H-pyrrole-3-carbonitrile | 51.7 g | ClC1=C(C(=CN1)C#N)C1=CC=CC=C1 | C11H7ClN2
